US04278575
A monomeric mixture (950 parts) consisting of 530 parts of methyl methacrylate, 300 parts of ethyl acrylate, 100 parts of β-hydroxyethyl methacrylate and 20 parts of diethylaminoethyl methacrylate was prepared. A reactor equipped with a stirrer, a thermometer, a condenser and a nitrogen gas inlet tube was charged with 100 parts of the alkyl resin obtained in Referential Example A, 130 parts of toluene, 150 parts of butyl acetate, 400 parts of the above-prepared monomeric mixture and 2 parts of benzoyl peroxide. The temperature was raised to 110° C., and the mixture was maintained at 110° C. for 1 hour, followed by adding 470 parts of toluene. The temperature was again raised to 110° C., and a mixture consisting of 550 parts of the remainder of the monomeric mixture, 200 parts of toluene and 20 parts of benzoyl peroxide was added dropwise at 110° C. over the course of 3 hours. After the addition, the mixture was maintained for 8 hours to afford a solution of a modified copolymer having an involatile content of 50.8%, a Gardner viscosity of Y-Z, Mn of 13,000 and Mw/Mn of 8.4.

reactant | methyl methacrylate | C(C(=C)C)(=O)OC | C5H8O2
reactant | ethyl acrylate | C(C=C)(=O)OCC | C5H8O2
reactant | β-hydroxyethyl methacrylate | C(C(=C)C)(=O)OCCO | C6H10O3
reactant | diethylaminoethyl methacrylate | C(C(=C)C)(=O)OCCN(CC)CC | C10H19NO2
solvent | butyl acetate | C(C)(=O)OCCCC | C6H12O2
solvent | toluene | C1(=CC=CC=C1)C | C7H8
product | benzoyl peroxide | C(C1=CC=CC=C1)(=O)OOC(C1=CC=CC=C1)=O | C14H10O4
